US07910561B2
[4-(3-Phenyl-1,6-naphthyridin-2-yl)phenyl]methanol (3-2)
To a partial suspension of 1-[4-({[t-butyl-(dimethyl)silyl]oxy}methyl)phenyl]-2-phenylethanone (1.36 gm, 4.0 mmol) and 4-aminonicotinaldehyde (prepared as described in J. Org. Chem. 48, 3401 (1983)) (540 mg, 4.42 mmol) in absolute ethanol (10 mL) was added dropwise 5N NaOH (3 mL, 15 mmol). This mixture was heated at 70° C. for three hours. The solvent was evaporated in vacuo and the residue was partitioned between methylene chloride and aqueous sodium carbonate. The organic layer was dried (Na2SO4), the solution filtered, and the solvent evaporated. This residue was triturated with a small amount of ethyl acetate as the product crystallized out. The mother liquors were chromatographed on silica gel eluting with 0-2% methanol/ethyl acetate (sat'd with ammonia) to give additional product. 1H-NMR (500 MHz, CDCl3): δ 9.32 (1H, s), 8.77 (1H, d, J=5.9 Hz), 8.29 (1H, s), 7.99 (1H, d, J=6.1 Hz), 7.46 (2H, d, J=8 Hz), 7.28-7.33 (5H, m), 7.24-7.26 (2H, m), 4.71 (2H, s),

reactant | 1-[4-({[t-butyl-(dimethyl)silyl]oxy}methyl)phenyl]-2-phenylethanone | 4.0 mmol, 1.36 gm | C(C)(C)(C)[Si](OCC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O)(C)C | C21H28O2Si
reactant | 4-aminonicotinaldehyde | 4.42 mmol, 540 mg | NC1=CC=NC=C1C=O | C6H6N2O
reactant | NaOH | 15 mmol, 5N, 3 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [4-(3-Phenyl-1,6-naphthyridin-2-yl)phenyl]methanol | C1(=CC=CC=C1)C=1C(=NC2=CC=NC=C2C1)C1=CC=C(C=C1)CO | C21H16N2O
